US06635763B2
Chiral Removal of (−)-Stereoisomer from a Mixture Containing Excess of (+)-Methyl (2-chlorophenyl)-(6,7-dihydro-4H thieno[3,2-c]pyrid-5-yl)acetate (I)
2 g (0.0173 mole) Methyl (2-chlorophenyl(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl)acetate (where ee was 95%) was dissolved in 10 ml acetone and the reaction mixture was stirred for 10 min, followed by reflux. To the reaction mixture, 1.49 g (1S)-(+)-camphor-10-sulfonic acid hydrate in 0.8 mL water was added followed by 1 mL acetone. Then whole reaction mixture was refluxed for 1 hrs and cooled gradually. This was later stirred overnight at room temperature. The clear solution was cooled further at 0 to −5° C., wherein precipitate was obtained. The salt formed was added to ethyl acetate and water, which was later basified with NaHCO3, the organic layer was washed with water, concentrated under reduced pressure, to give free base 0.386 g with chiral purity=99.85% (+)-isomer (ee=99.7%).

reactant | 2-chlorophenyl(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl)acetate | ClC1=C(C=CC=C1)C(C(=O)[O-])N1CC2=C(CC1)SC=C2
reactant | (1S)-(+)-camphor-10-sulfonic acid hydrate | 1.49 g | O.[C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 0.8 mL | O | H2O
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | (+)-Methyl (2-chlorophenyl)-(6,7-dihydro-4H thieno[3,2-c]pyrid-5-yl)acetate | ClC1=C(C=CC=C1)C(C(=O)OC)N1CC2=C(CC1)SC=C2 | C16H16ClNO2S
